US07632829B2
(rac)-(3-Methyl-piperidin-3-yl)-methanol hydrochloride
A solution of 0.20 g (0.87 mmol) of (rac)-3-hydroxymethyl-3-methyl-piperidine-1-carboxylic acid tert-butyl ester was dissolved in 5 ml of CH2Cl2, treated at 0° C. with a solution of HCl in dioxane (2.18 ml, 4 M in dioxane) and stirred for 2 h at RT. The reaction was then concentrated to dryness and re-evaporated with toluene to afford the title product (0.17 g, quant.) as white solid. MS: 130.1 (MH+)

reactant | (rac)-3-hydroxymethyl-3-methyl-piperidine-1-carboxylic acid tert-butyl ester | 0.87 mmol, 0.20 g | C(C)(C)(C)OC(=O)N1CC(CCC1)(C)CO | C12H23NO3
reactant | HCl | Cl | ClH
solvent | CH2Cl2 | 5 ml | C(Cl)Cl | CH2Cl2
solvent | dioxane | 4 M, 2.18 ml | O1CCOCC1 | C4H8O2
product | (rac)-(3-Methyl-piperidin-3-yl)-methanol hydrochloride | 0.17 g | Cl.CC1(CNCCC1)CO | InChI=1S/C7H15NO.ClH/c1-7(6-9)3-2-4-8-5-7;/h8-9H,2-6H2,1H3;1H
